US05648021
A mixture of 7.7 g of 2-bromo-6-hexyloxypyridine (prepared by reacting 2,6-dibromopyridine with sodium hexoxide in DMF), 3.9 g of trimethylsilylacetylene, 0.4 g of bis(triphenylphosphine)palladium(II) chloride and 0.05 g of copper (I) iodide in 100 ml of diethylamine is stirred at 20° C. for 12 hours. After the volatile constituents have been removed in a rotary evaporator, the mixture is filtered through SiO2 using dichloromethane; the crude 1-(2-bromopyridin-6-yl)-2-trimethylsilylethtne (7.5 g of melting point 24° to 27° C.) obtained is stirred for 1 hour at 20° C. in 100 ml of methanol with 25 ml of 1N aqueous NaOH solution. The solvent is evaporated, and the residue is chromatographed over SiO2 using dichloromethane/heptane 9:1, giving 4.3 g of 2-bromo-6-ethynylpyridine (brownish oil). A solution of 2 g of 2-bromo-6-ethynylpyridine in 50 ml of benzene to which 2.6 g of 2-bromo-6-hexyloxypyridine, 0.2 g of tetrakis(triphenylphisphine)palladium(0) and 30 ml of n-propylamine have been added is stirred at 20° C. for 10 hours. The volatile constituents are removed by distillation, and the residue is chromatographed over SiO2 using dichloromethane, giving 1.9 g of 1,2-bis(2-hexyloxypyridin-6-yl)ethyne. The latter is hydrogenated quantitatively in 50 ml of THF using Lindlar catalyst [Org. Synth. 46, 89 (1966)] to 1,2-bis(2-hexyloxypyridin-6-yl)ethene. The latter is dissolved in 500 ml of cyclohexane, 4 mol % of iodine are added, and the mixture is exposed to UV light for 10 hours at 25° C. in a quartz apparatus. Chromatography on SiO2 using dichloromethane and recrystallization from acetonitrile give 0.9 g of 2,7-bis(hexyloxy)-1,8-diazaphenanthrene as colorless crystals of melting point 91° C.

reactant | 1,2-bis(2-hexyloxypyridin-6-yl)ethene | C(CCCCC)OC1=NC(=CC=C1)C=CC1=CC=CC(=N1)OCCCCCC | C24H34N2O2
reactant | iodine | II | I2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
catalyst | Lindlar catalyst | [Pd].CC(=O)[O-].CC(=O)[O-].[Pb+2]
solvent | cyclohexane | 500 ml | C1CCCCC1 | C6H12
product | 2,7-bis(hexyloxy)-1,8-diazaphenanthrene | 0.9 g | C(CCCCC)OC1=NC=2C=CC3=NC(=CC=C3C2C=C1)OCCCCCC | C24H32N2O2
